US08461185B2
Step D: N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-formyl-5-(5-methyl-2-pyridinyl)benzamide
To a solution of N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-(5-methyl-2-pyridinyl)-5-vinylbenzamide (1.14 g, 3.15 mmol) in tetrahydrofuran (11 mL) and water (11 mL) were added sodium periodate (2.0 g, 9.45 mmol) and osmium tetroxide (2.5% in tert-butanol, 2.0 mL, 0.157 mmol). The reaction mixture was stirred at ambient temperature for 18 h. Saturated aqueous sodium sulfite and saturated aqueous sodium bicarbonate were added. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the title compound (1.1 g). MS 364.1 (M+1).

reactant | N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-(5-methyl-2-pyridinyl)-5-vinylbenzamide | 3.15 mmol, 1.14 g | FC=1C=CC(=NC1)[C@@H](C)NC(C1=CC(=CC(=C1)C=C)C1=NC=C(C=C1)C)=O | C22H20FN3O
reactant | sodium periodate | 9.45 mmol, 2.0 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | water | 11 mL | O | H2O
catalyst | osmium tetroxide | 0.157 mmol, 2.0 mL | [Os](=O)(=O)(=O)=O
product | N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-formyl-5-(5-methyl-2-pyridinyl)benzamide | 1.1 g | FC=1C=CC(=NC1)[C@@H](C)NC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C=O)=O | C21H18FN3O2
